US06410585B1
5-((2S)-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-{[2-hydroxy-2-(3-phenoxyphenyl)ethyl]amino}-3-oxopropyl)-2-(carboxymethoxy)benzoic Acid
Synthesis was performed from (2S)-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[3-(methoxycarbonyl)-4-(2-methoxy-2-oxoethoxy)phenyl]propanoic acid (96 mg, 0.16 mmol) and 2-amino-1-(3-phenoxyphenyl)-1-ethanol (45 mg, 0.20 mmol) according to Method C with HPLC purification to give the title compound (25 mg) as a diasteromeric mixture. 1H-NMR (400 MHz, CD3OD) d 7.59 (d, J=1.7 Hz, 1H), 6.87 (dd, J=1.2 Hz, J=8.3 Hz, 1H), 4.66 (m, 3H), 4.55 (t, J=7.0 Hz, 1H), 4.23 (m, 1H), 3.02 (m, 2H), 3.52 (m, 1H), 2.90 (m, 1H), 2.69 (m, 1H), 1.34 (s, 9H); HRMS m/z 741.2925 (calc. of monoisotopic mass for C40H43N3O11 gives 741.2898).

reactant | (2S)-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[3-(methoxycarbonyl)-4-(2-methoxy-2-oxoethoxy)phenyl]propanoic acid | 0.16 mmol, 96 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)N[C@H](C(=O)O)CC1=CC(=C(C=C1)OCC(=O)OC)C(=O)OC)CC1=CC=CC=C1 | C28H34N2O10
reactant | 2-amino-1-(3-phenoxyphenyl)-1-ethanol | 0.20 mmol, 45 mg | NCC(O)C1=CC(=CC=C1)OC1=CC=CC=C1 | C14H15NO2
product | 5-((2S)-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-{[2-hydroxy-2-(3-phenoxyphenyl)ethyl]amino}-3-oxopropyl)-2-(carboxymethoxy)benzoic Acid | 25 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)N[C@@H](CC=1C=CC(=C(C(=O)O)C1)OCC(=O)O)C(=O)NCC(C1=CC(=CC=C1)OC1=CC=CC=C1)O)CC1=CC=CC=C1 | C40H43N3O11
